US05464781
A solution of 3-butyryl-6-ethoxy-4-(4-methoxyanilino)-7-methyl-1,8-naphthyridine (8.0 g) in absolute ethanol (200 ml) was added dropwise at 0° C. over 1 hour to a solution of sodium borohydride (2.4 g) in absolute ethanol (200 ml). The mixture was allowed to warm up to ambient temperature and stirred at this temperature for 18 hours. Glacial acetic acid was added carefully to destroy excess borohydride and the resulting mixture was concentrated under reduced pressure. The residue was dissolved in water (200 ml) and extracted with dichloromethane to give a residue which was dissolved in IMS and saturated with hydrogen chloride gas. Ether was added to induce crystallisation. The mixture was filtered to give 1-[6-ethoxy-4-(4-methoxyanilino)-7-methyl-1,8-naphthyridin-3-yl]butan-1-ol, m.p. 120°-124° C.

reactant | 3-butyryl-6-ethoxy-4-(4-methoxyanilino)-7-methyl-1,8-naphthyridine | 8.0 g | C(CCC)(=O)C=1C=NC2=NC(=C(C=C2C1NC1=CC=C(C=C1)OC)OCC)C | C22H25N3O3
reactant | sodium borohydride | 2.4 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | Ether | CCOCC | C4H10O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | hydrogen chloride | Cl | ClH
product | 1-[6-ethoxy-4-(4-methoxyanilino)-7-methyl-1,8-naphthyridin-3-yl]butan-1-ol | C(C)OC=1C=C2C(=C(C=NC2=NC1C)C(CCC)O)NC1=CC=C(C=C1)OC | C22H27N3O3
